US09403801B2
Step 2) tert-butyl 4-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate
To a solution of tert-butyl 4-((2,5-dichloropyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate (830 mg, 2.15 mmol) and 1-methyl-1H-pyrazol-4-amine hydrochloride (344.74 mg, 2.58 mmol) in n-BuOH (8 mL) was added DIPEA (833.60 mg, 6.45 mmol) and the reaction mixture was stirred at 150° C. overnight. The resulting mixture was concentrated in vacuo and the residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=100/1) to give the product as a white solid (800 mg, 83%).

reactant | tert-butyl 4-((2,5-dichloropyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 2.15 mmol, 830 mg | ClC1=NC=C(C(=N1)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C)Cl | C17H24Cl2N4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 2.58 mmol, 344.74 mg | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 6.45 mmol, 833.60 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 8 mL | CCCCO | C4H10O
product | tert-butyl 4-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 800 mg, 83% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C21H30ClN7O2
